US08604061B2
To a stirred solution of (S)-4-(benzylamino-methyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (800 mg) at r.t. in methanol (10 ml) under an argon atmosphere were added acetaldehyde (0.70 ml), ZnCl2 (1.36 g) and NaBH3CN (0.47 g). The mixture was warmed to 50° C. and stirring at that temperature was continued for 17 h. The mixture was cooled to r.t. and partitioned between ammonium chloride solution and dichloromethane. The combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: heptane/ethyl acetate=1:1) to give (S)-4-[(benzyl-ethyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (160 mg, 18%) as colorless oil. MS (ISP): 293.5 ([M-tBu+H]+)

reactant | (S)-4-(benzylamino-methyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 800 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CNCC1=CC=CC=C1)(C)C | C18H28N2O3
reactant | acetaldehyde | 0.70 ml | C(C)=O | C2H4O
reactant | NaBH3CN | 0.47 g | [BH3-]C#N.[Na+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | ZnCl2 | 1.36 g | [Cl-].[Cl-].[Zn+2]
product | (S)-4-[(benzyl-ethyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 160 mg, 18% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN(CC)CC1=CC=CC=C1)(C)C | C20H32N2O3
